US06613942B1
Step A: 4-Nitro-1-methylnaphthalene.
To a cold (0° C.) suspension of 1-methylnaphthalene (5 g) in HNO3 was added H2SO4 (5 mL) dropwise. After stirring the reaction for one hour, the solution was diluted with ethyl acetate and washed with water (3×), aqueous saturated NaHCO3 (2×) and brine, dried over MgSO4, and concentrated. The product was purified by silica gel column chromatography using ethyl acetate:hexane (5:95) and recrystallized from methanol to give yellow needles.

reactant | 1-methylnaphthalene | 5 g | CC1=CC=CC2=CC=CC=C12 | C11H10
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Nitro-1-methylnaphthalene | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)C | C11H9NO2
